US08937071B2
A solution of N-(2,5-difluorophenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (45 mg, 0.086 mmol) in HCl (MeOH (solvate), 64.6 μl, 0.258 mmol) was stirred at 20° C. for 1 h. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo to give crude product which was purified by preparation HPLC to afford pure product N-(2,5-difluorophenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide (5.83 mg, 0.014 mmol, 16.8% yield): 1H NMR: (400 MHz, CD3OD) δ 7.86 (broad s, 1H), 7.43-7.37 (m, 5H), 7.20-7.13 (m, 1H), 6.86 (t, J=8.4 Hz, 1H), 4.20-4.15 (m, 2H), 3.88 (s, 2H), 1.48 (t, J=7.0 Hz, 3H); ES-LCMS: m/z 403.0 (M+H).

reactant | N-(2,5-difluorophenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.086 mmol, 45 mg | FC1=C(C=C(C=C1)F)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O | C29H25F3N2O4
reactant | HCl | 0.258 mmol, 64.6 μl | Cl | ClH
product | N-(2,5-difluorophenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide | 0.014 mmol, 5.83 mg, 16.8% yield | FC1=C(C=C(C=C1)F)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O | C21H17F3N2O3
